US06002008
4-Methoxy-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide
To a solution of 1.0 g (2.95 mmol) of of 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile and 0.57 g (4.42 mmol) of diisopropylethyl amine at 0° C. with stirring was added 0.43 g (3.24 mmol) of 4-methoxycrotonyl chloride. After 1.5 hr at 0° C., the mixture was poured into a saturated solution of sodium bicarbonate and then extracted with ethyl acetate. The organic solution was dried over magnesium sulfate and the sovent was removed. The residue was recrystallized from 1-butanol giving 1.3 g of 4-Methoxy-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide as a yellow solid: mass spectrum (electrospray, m/e,): M+H 436.4, 438.9.

reactant | 6-amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | diisopropylethyl amine | 4.42 mmol, 0.57 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methoxycrotonyl chloride | 3.24 mmol, 0.43 g | COC/C=C/C(=O)Cl | C5H7ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Methoxy-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCOC)=O)C#N | C21H17BrN4O2
